US08207216B2
5-Cyclopropyl-1-methyl-1H-indole.
To a solution of 1-Methyl-5-vinyl-1H-indole (290 mg, 1.84 mmol) in dioxane (5 mL) was cooled at 0° C. and solution of CH2N2 in diethyl ether was added. The reaction mixture was allowed to warm to room temperature and stirred for 12 h. The solvents were evaporated and the residue was purified by column chromatography (ethyl acetate:hexane; 5:95) to give a product (305 mg, 96%). 1H NMR (CDCl3, 400 MHz) 0.68 (m, 2H), 0.88 (m, 2H), 2.00 (m, 1H), 3.71 (s, 1H), 6.37 (d, J=2.9 Hz, 1H), 6.97 (m, 2H), 7.18 (d, J=8.4 Hz, 1H), 7.34 (s, 1H); 13C NMR (CDCl3, 100 MHz) 8.5, 13.6, 17.5, 32.8, 100.3, 108.9, 117.5, 120.4, 128.6, 128.9, 134.4, 135.3.

reactant | 1-Methyl-5-vinyl-1H-indole | 1.84 mmol, 290 mg | CN1C=CC2=CC(=CC=C12)C=C | C11H11N
reactant | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5-Cyclopropyl-1-methyl-1H-indole | 305 mg, 96% | C1(CC1)C=1C=C2C=CN(C2=CC1)C | C12H13N
